### PR TITLE
refactor: Migrate to a Hoare Logic reasoning framework

### PR DESCRIPTION
**Pull request by lthms**
See patch description for more details. Sorry for the huge patch. I know I should have proceed differently.

I still have some ideas to improve things, but it would only make the patch bigger.

### CODE REVIEW

File: _CoqProject [hunk 1]
```diff
@@ -1,75 +1,72 @@
--R theories/Core FreeSpec.Core
--R theories/Exec FreeSpec.Exec
--R theories/Stdlib FreeSpec.Stdlib
--R examples FreeSpec.Examples
+-Q _build/default/theories/Core FreeSpec.Core
```
Comment (yurug) [inline _CoqProject:3]: _CoqProject is a generated file, right?

File: examples/airlock.v [hunk 2]
```diff
@@ -44,14 +47,12 @@ Definition toggle `{Provide ix DOORS} (d : door) : impure ix unit :=
   request (Toggle d).
 
 Definition open_door `{Provide ix DOORS} (d : door) : impure ix unit :=
-  do let* open := is_open d in
-     when (negb open) (toggle d)
-  end.
+  let* open := is_open d in
```
Comment (yurug) [inline examples/airlock.v:50]: That's better, indeed!

File: examples/airlock.v [hunk 3]
```diff
@@ -172,19 +174,22 @@ Inductive doors_o_callee : Ω -> forall (a : Type), DOORS a -> a -> Prop :=
...
+Definition doors_contract : contract DOORS Ω :=
+  make_contract step doors_o_caller doors_o_callee.
 
 (** ** Intermediary Lemmas *)
 
 (** Closing a door [d] in any system [ω] is always a respectful operation. *)
 
 Lemma close_door_respectful `{Provide ix DOORS} (ω : Ω) (d : door)
-  : respectful_impure doors_contract ω (close_door d).
+  : pre (to_hoare doors_contract (close_door d)) ω.
```
Comment (yurug) [inline examples/airlock.v:187]: Would it be relevant to introduce a "pre" taking three arguments as:
```coq
pre doors_contract (close_door d) omega
```
?

The call to `to_hoare` is a syntactically heavy. Do we have context other than Hoare where `pre` makes sense?

File: examples/airlock.v [hunk 4]
```diff
@@ -172,19 +174,22 @@ Inductive doors_o_callee : Ω -> forall (a : Type), DOORS a -> a -> Prop :=
...
 
 Proof.
   (* We use the [prove_program] tactics to erase the program monad *)
 
-  prove_impure; cbn; repeat constructor; subst.
+  prove impure with smram; subst; constructor.
```
Comment (yurug) [inline examples/airlock.v]: What does `smram` has to deal with the Airlock use case?

File: examples/airlock.v [hunk 5]
```diff
@@ -198,33 +203,39 @@ Proof.
...
+Hint Resolve open_door_respectful : smram.
+
 Lemma close_door_run `{Provide ix DOORS} (ω : Ω) (d : door) (ω' : Ω) (x : unit)
-  (run : respectful_run doors_contract (close_door (ix := ix) d) ω ω' x)
+  (run : post (to_hoare doors_contract (close_door d)) ω x ω')
   : sel d ω' = false.
 
 Proof.
-  unroll_respectful_run run; cbn in *.
+  unroll_post_hoare run.
```
Comment (yurug) [inline examples/airlock.v]: I would have written `unroll_hoare_post` or simply `unroll_post` if `post` is only used in the context of Hoare logic...

File: examples/airlock.v [hunk 6]
```diff
@@ -198,33 +203,39 @@ Proof.
...
 Qed.
 
+Hint Resolve close_door_run : smram.
+
 #[local] Opaque close_door.
 #[local] Opaque open_door.
 #[local] Opaque Nat.ltb.
 
-Fact one_door_safe_all_doors_safe (ω : Ω) (d : door)
+Remark one_door_safe_all_doors_safe (ω : Ω) (d : door)
```
Comment (yurug) [inline examples/airlock.v:238]: :-)

File: examples/heap.v [hunk 7]
```diff
@@ -18,19 +18,23 @@
...
+
+Definition with_heap `{Monad m, MonadHeap m} : m string :=
+  let* ptr := make_ref 2 in
+  assign ptr 3;;
+  let* x := deref ptr in
+  if Nat.eqb x 2
+  then pure "yes!"
+  else pure "no!".
+
+Definition with_heap_impure `{Provide ix HEAP} : impure ix string :=
```
Comment (yurug) [inline examples/heap.v]: You should add a comment to explain the role of this definition which may seem magical to newcomers.

File: plugins/exec/extends.mli [hunk 8]
```diff
@@ -20,6 +20,7 @@
 
 (** Extend FreeSpec.Exec by associating primitives constructor names to
     effectfull semantics. *)
```
Comment (yurug) [inline plugins/exec/extends.mli]:
```suggestion
    effectful semantics. *)
```

File: tests/core_tactics.v [hunk 9]
```diff
@@ -18,9 +18,15 @@
...
 
-From FreeSpec.Core Require Import All.
+From FreeSpec.Core Require Import CoreFacts.
 From Coq Require Import Lia.
 
+Create HintDb counter.
+
+#[local] Open Scope nat_scope.
+
+Create HintDb counter.
```
Comment (yurug) [inline tests/core_tactics.v:26]: I am not sure to understand why this command is repeated.

File: tests/program_fixpoint.v [hunk 10]
```diff
@@ -1,4 +1,4 @@
-From FreeSpec.Exec Require Import All Debug.
+From FreeSpec.Exec Require Import Exec Eval.
```
Comment (yurug) [inline tests/program_fixpoint.v:2]: What are you testing here?

File: theories/Core/Component.v [hunk 11]
```diff
@@ -53,20 +53,50 @@ Definition component (i j : interface) : Type :=
...
     vertically.  Using these two operators, we can model a complete system in a
     hierarchical and modular manner, by defining each of its components
-    independently, then composing them together with [⊕] and
+    independently, then composing them together with [semprod] and
     [derive_semantics]. *)
 
 Definition bootstrap {i} (c : component i iempty) : semantics i :=
   derive_semantics c iempty_semantics.
+
+(** The function [with_component] allows for locally providing a novel interface
```
Comment (yurug) [inline theories/Core/Component.v]: I do not understand this sentence.

File: _CoqProject (hunk 1 above)
Comment (lthms) [reply _CoqProject:3]: Unfortunately, no :\ I am not aware of any tools that do that. I need to have one to generate the documentation, since atm `dune` does not support that. But the current setting feels very fragile, to the point where the _order_ of the file in `_CoqProject` matters.

Please, if you have any suggestion to improve the situation, I am all hears!

File: examples/airlock.v (hunk 3 above)
Comment (lthms) [reply examples/airlock.v:187]: It could be; we could also reintroduce a `respectful_impure` which would basically be an alias for `pre (to_hoare _ _) _`.

Since we are still in the process of refactoring, I’d rather leave these questions for the next round of changes, and remain explicit for now.

File: examples/airlock.v (hunk 4 above)
Comment (lthms) [reply examples/airlock.v]: It was a type, due to a eager c/c; I have renamed the database accordingly.

File: tests/core_tactics.v (hunk 9 above)
Comment (lthms) [reply tests/core_tactics.v:26]: It was a c/c error again, sorry about that.

File: theories/Core/Component.v (hunk 11 above)
Comment (lthms) [reply theories/Core/Component.v]: I have tried to reword it. Is it better?

File: tests/program_fixpoint.v (hunk 10 above)
Comment (lthms) [reply tests/program_fixpoint.v:2]: Should be clearer now.

**Comment by lthms** [comment]
I have pushed my changes, based on your feedback (thanks!). If you’re happy with the changes, I will probably squash these commits.

File: examples/airlock.v (hunk 6 above)
Comment (lthms) [reply examples/airlock.v:238]: :smiley: For the record, the motivation behind this change is basically to have `Lemma` for “public/global theorems”, and `Remark` for private/local theorems.

**Comment by lthms** [comment]
Great news! The CI is finally green \o/.

**Comment by yurug** [comment]
Ah! I have not finished my review! Let me one more day!

**Comment by yurug** [comment]
Are you aware that this branch does not work with dune 2.7?

**Comment by lthms** [comment]
Can you be more specific? I would have bet I had `dune.2.7` installed when I developed it. You probably are lacking some dependencies (have a look at the `.travis.yml` file to have a list of them)

**Comment by lthms** [comment]
I can confirm it work with `dune.2.7.1`. Do you want us to take a moment later this week to investigate?

File: examples/echo.v [hunk 12]
```diff
@@ -1,17 +0,0 @@
-From FreeSpec Require Import Core Args Console.
```
Comment (yurug) [inline examples/echo.v:1]: Where did you move these files?

File: plugins/exec/coqnum.ml [hunk 13]
```diff
@@ -1,91 +0,0 @@
-(* FreeSpec
```
Comment (yurug) [inline plugins/exec/coqnum.ml:1]: Where do want to move this one?

File: plugins/exec/store.ml [hunk 14]
```diff
@@ -0,0 +1,21 @@
+type 'a t = { next_key : Uint63.t ref; table : (Uint63.t, 'a) Hashtbl.t }
+
+let unwrap : Constr.t -> Uint63.t = fun x ->
+  match Constr.kind x with
+  | Constr.Int x -> x
+  | _ -> assert false
+
+let create _ =
+  { next_key = ref Uint63.zero; table = Hashtbl.create ~random:false 100 }
```
Comment (yurug) [inline plugins/exec/store.ml:9]: This would be far more efficient to use an extensible array here!

File: tests/program_fixpoint.v [hunk 15]
```diff
@@ -1,16 +1,27 @@
...
-                     enum p rst
-                  end
+  | cons x rst => p x;;
+                  enum p rst
   end.
 
-#[nf] Exec (enum inspect [true; true; false]).
+Fail Timeout 1 Exec (enum eval [true; true; false]).
+
+(** We have provided an attribute for [Exec] which slightly changes the behavior
```
Comment (yurug) [inline tests/program_fixpoint.v:21]: This comment is too mysterious. What is your advice to the user? Don't you  want to say more about the implementation details so that the user can decide rationally to use this attribute or not.

File: theories/Core/Component.v [hunk 16]
```diff
@@ -53,20 +53,49 @@ Definition component (i j : interface) : Type :=
...
-    independently, then composing them together with [⊕] and
+    independently, then composing them together with [semprod] and
     [derive_semantics]. *)
 
 Definition bootstrap {i} (c : component i iempty) : semantics i :=
   derive_semantics c iempty_semantics.
+
+(** * In-place Primitives Handling *)
+
+(** The function [with_component] allows for locally providing an additional
```
Comment (yurug) [inline theories/Core/Component.v:76]: You should probably explain why this is useful. (For a neat encapsulation, I guess.)

File: theories/Core/ComponentFacts.v [hunk 17]
```diff
@@ -0,0 +1,117 @@
+From ExtLib Require Import StateMonad.
+From FreeSpec.Core Require Import Contract HoareFacts SemanticsFacts InstrumentFacts.
+From FreeSpec Require Export Component.
+
+(** We use an alternative definition of [derive_semantics], which has the
+    virtue of being easier to reason with. *)
```
Comment (yurug) [inline theories/Core/ComponentFacts.v]: Why is that easier?

File: theories/Core/ComponentFacts.v [hunk 18]
```diff
@@ -0,0 +1,117 @@
...
+
+#[local]
+CoFixpoint derive_semantics' {i j} (c : component i j) (sem : semantics j)
+  : semantics i :=
+  mk_semantics (fun a p =>
+                  (evalState (to_state $ c a p) sem,
+                   derive_semantics' c (execState (to_state $ c a p) sem))).
+
+(** We prove these two definition ([derive_semantics] and [derive_semantics'])
```
Comment (yurug) [inline theories/Core/ComponentFacts.v]:
```suggestion
(** We prove these two definitions ([derive_semantics] and [derive_semantics'])
```

File: theories/Core/Contract.v [hunk 19]
```diff
@@ -167,7 +174,7 @@ Definition store_update (s : Type) :=
     defined our contract, but in the meantime, we define its callee obligation.
 
     The logic of these callee obligations is as follows: [Get] is expected to
-    produce a result strictly equal to the witness, and we do not have any
+    produce a result strictly eqv to the witness, and we do not have any
```
Comment (yurug) [inline theories/Core/Contract.v]: `eqv` -> `equivalent`?

File: theories/Core/Extraction.v [hunk 20]
```diff
@@ -0,0 +1,3 @@
+From FreeSpec Require Import Core.
+
+Extraction Inline impure_Applicative.
```
Comment (yurug) [inline theories/Core/Extraction.v:55]: This module lacks documentation.

Besides, this workaround does not work with  `Recursive Extraction Library`...

File: theories/Core/Hoare.v [hunk 21]
```diff
@@ -18,123 +18,64 @@
...
-Definition hoare_of_contract `{MayProvide ix i} {Ω} (c : contract i Ω)
-  : ix ~> hoare Ω :=
-  fun α (e : ix α) =>
-    mk_hoare (fun ω => gen_caller_obligation c ω e)
-             (fun ω x ω' =>
-                gen_callee_obligation c ω e x
-                /\ ω' = gen_witness_update c ω e x).
-
-Definition hoare_of_impure `{MayProvide ix i} {Ω} (c : contract i Ω)
+From ExtLib Require Import Functor Applicative Monad.
```
Comment (yurug) [inline theories/Core/Hoare.v:21]: This module is far less documented than the others.

File: theories/Core/Hoare/hoare_tactics.v [hunk 22]
```diff
@@ -0,0 +1,132 @@
+(** Reasoning with the [hoare] type has proven to be cumbersome to say the
+    least. However, one can use the automation features of Coq to ease the
+    verification process.
+
+    More precisely, we implement several “angry”, ad-hoc tactics. *)
```
Comment (yurug) [inline theories/Core/Hoare/hoare_tactics.v]: Being `angry` is not compatible with my life philosophy. :-)

More seriously, it may not be clear to users when to use these tactics. Can you document them a little bit more please?

File: theories/Core/Init.v [hunk 23]
```diff
@@ -0,0 +1,80 @@
+(** * Coq Set-up *)
+
+#[global] Generalizable All Variables.
```
Comment (yurug) [inline theories/Core/Init.v]: Hmm, I hope this choice is not too global.

File: theories/Core/Tactics.v [hunk 24]
```diff
@@ -54,150 +49,156 @@ Ltac destruct_if_when_in hyp :=
   | _ => idtac
   end.
 
-Ltac prove_impure :=
-  repeat (cbn -[gen_caller_obligation gen_callee_obligation gen_witness_update]; destruct_if_when);
-  lazymatch goal with
+Ltac simplify_gens :=
```
Comment (yurug) [inline theories/Core/Tactics.v:52]: I like this identifier. If only this was possible for real people!

**Comment by yurug** [comment]
@lthms I am done. Please react to my comments. I think this PR can be merged as is. I can provide a small PR to improve the state of the `Store` OCaml implementation.

**Comment by lthms** [comment]
Thanks for the review @yurug!

> Please react to my comments.

I will! there are comments of mine (from your previous round of review) that are awaiting for a response too :p.

> I think this PR can be merged as is

There are some of your points I want to address first. For the others, I will probably open dedicated issues prior to merge this; but I believe we can indeed merge this (monstrous, sorry about that again) PR this week.

And then, we should carefully plan our release to opam. It’s about time.

> I can provide a small PR to improve the state of the Store OCaml implementation.

It would be great!

File: examples/echo.v (hunk 12 above)
Comment (lthms) [reply examples/echo.v:1]: I have removed `FreeSpec.Stdlib` altogether (it was too thin to be usable, and too big to be a good example).

I could probably add a new directory under the `examples/` directory. Showing how `echo` could be implemented using `coqffi` is probably interesting. This could be the object of a tutorial, even.

File: plugins/exec/coqnum.ml (hunk 13 above)
Comment (lthms) [reply plugins/exec/coqnum.ml:1]: `plugins/exec/coqi63.ml` contains the necessary functions to translate `i63` terms (introduced by the `CoqFFI` theory; that are _signed_ integers for Coq implemented with native integers) into `int` OCaml value.

File: plugins/exec/store.ml (hunk 14 above)
Comment (lthms) [reply plugins/exec/store.ml:9]: I will create an issue, and let you do your magic (:

File: theories/Core/Init.v (hunk 23 above)
Comment (lthms) [reply theories/Core/Init.v]: This is maybe a bit too opinionated indeed. :\

I will try to work on that.

**Comment by lthms** [comment]
I have squashed the changes due to your review, and am now ready to work on the second round (: I will ping you when I am done.

File: theories/Core/ComponentFacts.v (hunk 17 above)
Comment (lthms) [reply theories/Core/ComponentFacts.v]: Explained in 1f24c45b6d0090ea366410fc66b9ddfe4642c969

File: theories/Core/Init.v (hunk 23 above)
Comment (lthms) [reply theories/Core/Init.v]: I have tried another approach for this… one that, tbh, I kinda like: the use of a `build.v` file and the `-init-file` argument of `coqtop`.

It is implemented in f998cc6f13bcc3b28ea670f04102017396584bff and I would love to hear your thoughts about it! I consider generalizing it to other projects of mine tbh.

File: tests/program_fixpoint.v (hunk 15 above)
Comment (lthms) [reply tests/program_fixpoint.v:21]: I don’t think this is the best place to do that, but I will definitely explain it more in `FreeSpec.Exec.Exec`.

Comment (lthms) [reply tests/program_fixpoint.v:21]: Fixed in c2ae6a41574268bd5464179337c6655dfc21ac4e

File: theories/Core/Hoare/hoare_tactics.v (hunk 22 above)
Comment (lthms) [reply theories/Core/Hoare/hoare_tactics.v]: It turned out I wasn’t using them anymore… x) so I will just remove it.

**Comment by lthms** [comment]
I think we’re good @yurug and I will probably merge this next week. (: 

Then, it will be writing tutorials and we would be ready for a first Opam release. Maybe `3.0.0+beta1` or something.
